US08703922B2
Water (130 mL) and 40 g (0.71 mol) of potassium hydroxide was added to a solution of 67.2 g (285 mmol) of 3,7,11-trimethyldodec-2-ene-1-nitrile in ethanol (470 mL). The solution was stirred for 18 hours at 80° C. After the reaction mixture was concentrated, and then neutralized with concentrated hydrochloric acid, and extracted with ethyl acetate. The extract was washed with saturated sodium bicarbonate aqueous solution and saturated brine, successively, and dried over sodium sulfate. After filtration, the filtrate was concentrated to obtain 4,8,12-trimethyltridec-3-enoic acid as a crude product.

reactant | Water | 130 mL | O | H2O
reactant | potassium hydroxide | 0.71 mol, 40 g | [OH-].[K+]
reactant | 3,7,11-trimethyldodec-2-ene-1-nitrile | 285 mmol, 67.2 g | CC(=CC#N)CCCC(CCCC(C)C)C | C15H27N
reactant | ethanol | 470 mL | C(C)O | C2H6O
product | 4,8,12-trimethyltridec-3-enoic acid | CC(=CCC(=O)O)CCCC(CCCC(C)C)C | C16H30O2
